US07425634B2
(4) 4-(2,2-dimethyl-1,3-dioxan-5-ylmethoxy)-2,3,5-trimethylpyridine 1-oxide
A mixture of 4-chloro-2,3,5-trimethylpyridine 1-oxide (840 g), (2,2-dimethyl-1,3-dioxan-5-yl)methanol (688 g) and toluene (2.52 L) was heated under reflux while removing a water content. While azeotropical dehydration was continued, potassium hydroxide (0.58 kg) was added to the reaction mixture over 3 hours and 45 minutes, and azeotropic dehydration was continued for 2.5 hours. The mixture was cooled to 30° C. or less, and ethyl acetate (2.5 L) and a 17% saline solution (3.5 L) were added to the mixture and then the mixture was allowed to stand for overnight. The ethyl acetate layer was separated and the aqueous layer was extracted with ethyl acetate (1.0 L×3). The ethyl acetate layers were combined, filtrated through celite, and concentrated under reduced pressure to obtain a desired product (1.20 kg).

reactant | 4-chloro-2,3,5-trimethylpyridine 1-oxide | 840 g | ClC1=C(C(=[N+](C=C1C)[O-])C)C | C8H10ClNO
reactant | (2,2-dimethyl-1,3-dioxan-5-yl)methanol | 688 g | CC1(OCC(CO1)CO)C | C7H14O3
solvent | toluene | 2.52 L | C1(=CC=CC=C1)C | C7H8
product | 4-(2,2-dimethyl-1,3-dioxan-5-ylmethoxy)-2,3,5-trimethylpyridine 1-oxide | 1.20 kg | CC1(OCC(CO1)COC1=C(C(=[N+](C=C1C)[O-])C)C)C | C15H23NO4
